US06903120B2
1-Butyl-4-(3-trifluoromethyl-phenyl)-piperidine
Beginning with 4-(3-Trifluoromethyl-phenyl)-piperidine and n-Bu-Br: m.p. 222° C. (HCl), MS m/z (rel. intensity, 70 eV) 285 (M+, 3), 243 (12), 242 (bp), 70 (51), 56 (17).

reactant | 4-(3-Trifluoromethyl-phenyl)-piperidine | FC(C=1C=C(C=CC1)C1CCNCC1)(F)F | C12H14F3N
reactant | n-Bu-Br | C(CCC)Br | C4H9Br
reactant | HCl | Cl | ClH
product | 1-Butyl-4-(3-trifluoromethyl-phenyl)-piperidine | C(CCC)N1CCC(CC1)C1=CC(=CC=C1)C(F)(F)F | C16H22F3N
